US06352993B1
Step 2: 4-fluoro-2-methoxy-aniline
Paladium/carbon(Pd/C, 5%, 0.5 g) was added to a solution of 4-fluoro-2-methoxynitrobenzene (1.65 g, 9.6 mmol) in ethanol, which was then stirred for 1 hour under 30 psi of hydrogen pressure. The reaction mixture was filtered to remove paladium/carbon, and concentrated to give 1.35 g of the titled compound. (Yield 100%)

reactant | 4-fluoro-2-methoxynitrobenzene | 9.6 mmol, 1.65 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
product | 4-fluoro-2-methoxy-aniline | 1.35 g, Yield 100% | FC1=CC(=C(N)C=C1)OC | C7H8FNO
